US06410528B1
1-O-(p-toluenesulfonyl)-2-methylene-1,3-propanediol
2-Methylene-1,3-propanediol (480 mg) and dibutyltinoxide (1,7 g) were dissolved in toluene (30 ml) and the resulting suspension was refluxed for 1 hour eliminating water with the help of a Dean-Stark apparatus. The flask was cooled down to room temperature and then, N-methyl-imidazol (797 ml) and tosyl chloride (1,56 g) were added. After 15 minutes stirring, the reaction crude was directly purified by column chromatography (hexane-ethyl acetate v/v from 7:1 to 1:1). The title compound (428 mg) was obtained as a white solid.

reactant | 2-Methylene-1,3-propanediol | 480 mg | C=C(CO)CO | C4H8O2
reactant | dibutyltinoxide | 1,7 g | C(CCC)[Sn](CCCC)=O
reactant | N-methyl-imidazol | 797 ml | CN1C=NC=C1 | C4H6N2
reactant | tosyl chloride | 1,56 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-O-(p-toluenesulfonyl)-2-methylene-1,3-propanediol | 428 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC(CO)=C)C | C11H14O4S
